### PR TITLE
[Merged by Bors] - feat(Data/Nat/Choose/Multinomial): add multinomial_eq_of_support_subset

### PR DESCRIPTION
**Pull request by mariainesdff**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Choose/Multinomial.lean [hunk 1]
```diff
@@ -150,6 +150,16 @@ def multinomial (f : α →₀ ℕ) : ℕ :=
...
 
+theorem multinomial_eq_of_support_subset {f : α →₀ ℕ} {s : Finset α} (h : f.support ⊆ s) :
+    f.multinomial = Nat.multinomial s f := by
+  simp only [Finsupp.multinomial_eq, Nat.multinomial]
+  congr 1
+  · simp [Finset.sum_subset h]
+  · rw [Finset.prod_subset h]
+    intro x _
+    simp only [Finsupp.mem_support_iff, ne_eq, Decidable.not_not, Nat.factorial_eq_one]
+    grind
```
Comment (robin-carlier) [inline Mathlib/Data/Nat/Choose/Multinomial.lean]: It seems `grind` can even golf this further!

```suggestion
    grind [Finsupp.mem_support_iff, Nat.factorial_eq_one]
```

**Review by robin-carlier — COMMENTED** [review]
Looks good. Here’s a very minor further golfing if you want.

**Review by Vierkantor — APPROVED** [review]
Thanks!

bors merge
